US08236319B2
4-(2,5-dioxo-2,5-dihydro-1H-pyrrol-1-yl)-3-sulfobutanoic acid
(Z)-4-(3-carboxy-2-sulfopropylamino)-4-oxobut-2-enoic acid (450 mg, 1.60 mmol) in mixture of 10 ml of dry DMA and 50 ml of dry toluene was heated. After the temperature reached at 80° C., HMDS (hexamethyldisilazane, 1.80 ml, 8.63 mmol,) and ZnCl2 (3.2 ml, 1.0 M in diethyl ether) were added. The mixture was continued heated to 115˜125° C. and toluene was collected through Dean-Stark trap. The reaction mixture was fluxed at 120° C. for 6 h. During this period, 2×20 ml of dry toluene was added to keep the mixture volume around 8˜10 ml. Then the mixture was cooled, 1 ml of 1:10 HCl (conc)/CH3OH was added, evaporated, purified on SiO2 chromatography eluted with 1:5:0.01 CH3OH/CH2Cl2/HAc to afford 315 mg (75%) of the title product. 1H NMR (DMF-d7) 6.96 (s, 2H), 4.04 (dd, 1H, J=4.3, 13.8 Hz), 3.47 (m, 1H), 3.23 (dd, 1H, J=7.4, 14.7 Hz), 2.99 (dd, 1H, J=3.3, 16.8 Hz), 2.35 (dd, 1H, J=8.1, 16.9 Hz); 13C NMR 173.58, 172.18, 135.54, 54.61, 40.24, 32.43, ESI MS m/z− 261.70 (M−H).

reactant | (Z)-4-(3-carboxy-2-sulfopropylamino)-4-oxobut-2-enoic acid | 1.60 mmol, 450 mg | C(=O)(O)CC(CNC(\C=C/C(=O)O)=O)S(=O)(=O)O | C8H11NO8S
reactant | DMA | 10 ml | CC(=O)N(C)C | C4H9NO
reactant | HMDS | 8.63 mmol, 1.80 ml | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
catalyst | ZnCl2 | 1.0 M, 3.2 ml | [Cl-].[Cl-].[Zn+2]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(2,5-dioxo-2,5-dihydro-1H-pyrrol-1-yl)-3-sulfobutanoic acid | 315 mg, 75% | O=C1N(C(C=C1)=O)CC(CC(=O)O)S(=O)(=O)O | C8H9NO7S
